US06894061B2
5-[(3,4-Dimethoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine
A stirred solution of phenanthridine (3.58 g, 20 mmol) in anhydrous diethyl ether (20 mL) was cooled to −30° C., and treated drop-wise under nitrogen via syringe with a solution of 1.4 M methyllithium in diethyl ether (14.5 mL, 20.3 mmol). The yellow solution was warmed to room temperature and stirred for 15 minutes. The mixture was cooled to −78° C., and treated with 3,4-dimethoxybenzenesulfonyl chloride (4.73 g, 20 mmol) as a solid in a single aliquot. The reaction mixture was warmed slowly to room temperature over one hour, poured into a 1 N aqueous sodium hydroxide solution, and extracted with ethyl acetate. The organic phase was washed sequentially with water, 1 N hydrochloric acid, and a saturated, aqueous, sodium chloride solution. After drying over anhydrous sodium sulfate, the organic phase was filtered through a short column of silica gel, and the filtrate evaporated in vacuo to yield a crude yellow solid (5.3 g, 67%). Crystallization of the solid from a mixture of diethyl ether-hexane yielded the title compound (2.93 g) and a second crop (0.8 g) (Total: 3.73 g, 9.43 mmol, 47%) as a homogeneous, off-white, crystalline solid, m.p. 131-133° C.;

reactant | phenanthridine | 20 mmol, 3.58 g | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | methyllithium | 1.4 M | C[Li]
reactant | 3,4-dimethoxybenzenesulfonyl chloride | 20 mmol, 4.73 g | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 20.3 mmol, 14.5 mL | C(C)OCC | C4H10O
product | 5-[(3,4-Dimethoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine | 2.93 g | COC=1C=C(C=CC1OC)S(=O)(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C | C22H21NO4S
